US08303935B2
First, 6-bromo-2-(4′-hydroxyphenyl)imidazo[1,2-a]pyridine prepared above is dissolved in N,N-dimethylformamide, and the solution is supplemented with potassium carbonate and 3-bromo-1-propanol and stirred at room temperature for overnight to obtain 6-bromo-2-[4′-(3″-hydroxypropoxy)phenyl]imidazo[1,2-a]pyridine. This is dissolved in pyridine, supplemented with p-toluenesulfonylchloride under an ice bath and then reacted at room temperature to obtain 6-bromo-2-[4′-(3″-p-toluenesulfonyloxypropoxy)phenyl]imidazo[1,2-a]pyridine as a target compound. The amount of the p-toluenesulfonylchloride to be used in this instance may be excessive relative to the reaction substrate, and is typically about double the reaction substrate 6-bromo-2-[4′-(3″-hydroxypropoxy)phenyl]imidazo[1,2-a]pyridine in molar ratio.

reactant | 6-bromo-2-(4′-hydroxyphenyl)imidazo[1,2-a]pyridine | BrC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)O | C13H9BrN2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-1-propanol | BrCCCO | C3H7BrO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 6-bromo-2-[4′-(3″-hydroxypropoxy)phenyl]imidazo[1,2-a]pyridine | BrC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)OCCCO | C16H15BrN2O2
